US07713982B2
e) 1-Methyl-2,6-dioxo-3-pentyl-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile
1-Methyl-2,6-dioxo-3-pentyl-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile (0.17 g, 0.56 mmol) and morpholine (0.6 ml, 6.7 mmol) were dissolved in THF (5 ml) containing DMSO (0.5 ml). The flask containing the solution was placed under vacuum and the air replaced with nitrogen (x3). Tetrakis(triphenylphosphine)palladium (0) (0.13 g, 0.11 mmol) was added and the solution stirred for 2.5 h. The solution was separated between ethyl acetate (20 ml) and 2N hydrochloric acid (10 ml) and the organics isolated and washed with brine (3×10 ml). The organics were then washed with 2N sodium hydroxide solution (2×10 ml) and the aqueous acidified with 2N hydrochloric acid and extracted with ethyl acetate (2×10 ml). The organics were isolated, dried (MgSO4) and concentrated to yield the title compound (0.026 g, 18%). NMR; δH (400 MHz, CDCl3) 0.92 (t, 3H, J=7 Hz), 1.32-1.43 (m, 4H), 1.79 (m, 2H), 3.54 (s, 3H), 4.15 (t, 2H, J=7.5 Hz,), 14.35 (br. s, 1H); m/z 262[MH+]

reactant | 1-Methyl-2,6-dioxo-3-pentyl-7-(2-propen-1-yl)-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile | 0.56 mmol, 0.17 g | CN1C(N(C=2N=C(N(C2C1=O)CC=C)C#N)CCCCC)=O | C15H19N5O2
reactant | morpholine | 6.7 mmol, 0.6 ml | N1CCOCC1 | C4H9NO
reactant | DMSO | 0.5 ml | CS(=O)C | C2H6OS
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.11 mmol, 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Methyl-2,6-dioxo-3-pentyl-2,3,6,7-tetrahydro-1H-purine-8-carbonitrile | 0.026 g, 18% | CN1C(N(C=2N=C(NC2C1=O)C#N)CCCCC)=O | C12H15N5O2
